US05840917
A mixture of 2-bromo-3-methylthiophene (17.7 g), N-bromosuccinimide (17.7 g), 2,2'-azobis(isobutyronitrile) (0.32 g) and carbon tetrachloride (200 ml) was stirred for 4 hours under reflux. The mixture was concentrated under reduced pressure and the residue was purified by silica gel column chromatography to give 3-bromomethyl-2-bromothiophene (12.56 g). A suspension of 3-bromomethyl-2-bromothiophene (6.30 g), potassium acetate (9.8 g) in acetone (100 ml) was stirred at room temperature for 3 hours. The mixture was poured into water and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give a crude product of 3-acetoxymethyl-2-bromothiophene (5.8 g). This crude product was dissolved in tetrahydrofuran (50 ml), and 1N aqueous sodium hydroxide (50 ml) and ethanol (20 ml) were added. The mixture was stirred at room temperature for 2 hours and washed with diethyl ether. The aqueous layer was acidified with 1N hydrochloric acid and extracted with ethyl acetate. the extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give a crude product of 3-hydroxymethyl-2-bromothiophene (4.6 g). This crude product of 3-hydroxymethyl-2-bromothiophene was dissolved in methylene chloride (100 ml), manganese dioxide (15 g) was added. The mixture was stirred at room temperature for 6 hours, and insoluble substances were removed by filtration. The filtrate was concentrated under reduced pressure to give a crude product of 2-bromo-3-thiophenecarbaldehyde (3.92 g). The crude product of 2-bromo-3-thiophenecarbaldehyde was dissolved in acetonitrile (50 ml), and sodium dihydrogen phosphate (1.0 g) in water (15 ml) and 30% aqueous hydrogen peroxide (2.5 ml) were added. Further, sodium chlorite (2.7 g) in water (30 ml) was added dropwise under ice-cooling. The mixture was stirred at room temperature for 2 hours, alkalified with 1N aqueous sodium hydroxide (2.7 g) and washed with diethyl ether. The aqueous layer was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 2-bromo-3-thiophenecarboxylic acid (2.89 g) as crystals.

reactant | 3-bromomethyl-2-bromothiophene | 6.30 g | BrCC1=C(SC=C1)Br | C5H4Br2S
reactant | potassium acetate | 9.8 g | C(C)(=O)[O-].[K+]
reactant | water | O | H2O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 3-acetoxymethyl-2-bromothiophene | 5.8 g | C(C)(=O)OCC1=C(SC=C1)Br | C7H7BrO2S
